US08562942B2
Synthesis of Structure Directing Agent 1,3-Diethylimidazolium Iodide (7)
1-ethylimidazole (4.81 g, 50 mmol, Sigma-Aldrich, 99%) in 50 mL ethyl acetate was cooled to 0° C. in an ice bath. Once cool, iodoethane (8.69 g, 55.7 mmol, Sigma-Aldrich, 99%) was added dropwise via an addition funnel. The solution was allowed to warm slowly to room temperature then stirred overnight. The precipitate was filtered off and washed with diethyl ether. The filtrate was collected and an additional 8.96 g (57.4 mmol) iodoethane was added and stirring continued at room temperature for 6 days. The solution was filtered again and the residue was washed with diethyl ether. The combined solids were dried overnight under high vacuum yielding 9.76 g white solids (38.7 mmol, 77% yield) that were used without further purification.

reactant | 1-ethylimidazole | 50 mmol, 4.81 g | C(C)N1C=NC=C1 | C5H8N2
reactant | iodoethane | 55.7 mmol, 8.69 g | ICC | C2H5I
reactant | iodoethane | 57.4 mmol, 8.96 g | ICC | C2H5I
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 1,3-Diethylimidazolium Iodide | 38.7 mmol, 9.76 g, 77% yield | [I-].C(C)[N+]1=CN(C=C1)CC | InChI=1S/C7H13N2.HI/c1-3-8-5-6-9(4-2)7-8;/h5-7H,3-4H2,1-2H3;1H/q+1;/p-1
